US04152441
B. Preparation of α-(p-bromophenyl)-α-phenylimidazole-2-methanol.
A mixture of 24.8 g. (0.052 mol) of α-(p-bromophenyl)-α-phenyl-1-(toluene-p-sulphonyl)imidazole-2-methanol, 160 ml. of 2 N hydrochloric acid solution (0.156 mol) and about 500 ml. of water was boiled under reflux for 5 hours. After cooling the mixture was made alkaline by addition of ammonia. The precipitated solid was collected, treated with activated carbon in boiling toluene and crystallised from toluene. Melting point of the product was 156°-158° C.

reactant | α-(p-bromophenyl)-α-phenyl-1-(toluene-p-sulphonyl)imidazole-2-methanol | 0.052 mol | BrC1=CC=C(C=C1)C(O)(C=1N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C23H19BrN2O3S
reactant | hydrochloric acid | 0.156 mol, 2 N | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | α-(p-bromophenyl)-α-phenylimidazole-2-methanol | BrC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=CC=C1 | C16H13BrN2O
